US07482375B2
Preparation 3: 4-Hydroxy-2-methoxy benzonitrile
Trifluoroacetic anhydride (1.3 ml, 9.36 mmol) was added to a solution of 4-hydroxy-2-methoxybenzamide {Liebigs Ann Chem (1982)1836-1869} (600 mg, 3.6 mmol) and pyridine (0.72 ml, 9.36 mmol), in tetrahydrofuran (10 ml), and the mixture was stirred at room temperature for 18 hours. The reaction mixture was then concentrated under reduced pressure and treated with 2M hydrochloric acid (100-ml). It was then extracted with ethyl acetate (2×100 ml). The organic layers were combined and washed with brine (100 ml), dried over magnesium sulphate, filtered and then evaporated under reduced pressure to give an orange solid. The crude product was purified by flash chromatography on silica gel eluting with pentane:ethyl acetate (70:30 to 50:50, by volume) to provide the title compound (320 mg, 60%) as a pale yellow solid.

reactant | Trifluoroacetic anhydride | 9.36 mmol, 1.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-hydroxy-2-methoxybenzamide | OC1=CC(=C(C(=O)N)C=C1)OC | C8H9NO3
reactant | pyridine | 9.36 mmol, 0.72 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-Hydroxy-2-methoxy benzonitrile | 320 mg, 60% | OC1=CC(=C(C#N)C=C1)OC | C8H7NO2
